US09447054B2
8 mmol of 2,4-diaminophenol.2HCl and 8 mmol of 4-tert-butyl-benzoic acid were dissolved in 10 g of PPA, and then, the mixed solution was stirred at a temperature of 180° C. for 3 to 4 hours. After completion of the reaction, the reaction solution was cooled, neutralized with 10% NaOH, and filtered by using distilled water for recrystallization in a slow manner, thereby obtaining 2.0 g of 2-(4-tert-butylphenyl)benzo[d]oxazole-5-amine (Derivate #4) (yield: 94%).

reactant | 2,4-diaminophenol.2HCl | 8 mmol | C1=CC(=C(C=C1N)N)O.Cl.Cl
reactant | 4-tert-butyl-benzoic acid | 8 mmol | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | NaOH | [OH-].[Na+]
product | 2-(4-tert-butylphenyl)benzo[d]oxazole-5-amine | 2.0 g, yield: 94% | C(C)(C)(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C17H18N2O
